US07662988B2
Under nitrogen atmosphere, to a mixture of 0.20 g of 4-propargyl-2,3,5,6-tetrafluorobenzyl alcohol, 0.17 g of (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid, 0.022 g of 4-dimethylaminopyridine in 7 ml of dichloromethane was added 0.21 g of N,N-dicyclohexylcarbodiimide, and the mixture was stirred at room temperature for three hours. Then, the reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography to obtain 0.26 g of 4-propargyl-2,3,5,6-tetrafluorobenzyl (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate (hereinafter, referred to as the present compound (A)) represented by the formula (A):

reactant | 4-propargyl-2,3,5,6-tetrafluorobenzyl alcohol | 0.20 g | C(C#C)C1=C(C(=C(CO)C(=C1F)F)F)F | C10H6F4O
reactant | (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.17 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)O)(C)C)C | C10H13NO2
catalyst | 4-dimethylaminopyridine | 0.022 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-propargyl-2,3,5,6-tetrafluorobenzyl (1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 0.26 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)OCC1=C(C(=C(C(=C1F)F)CC#C)F)F)(C)C)C | C20H17F4NO2
